US06936632B2
a) Methyl [4-(2-nitrovinyl)phenyl]sulphone
A mixture of 4-methylsulphonylbenzaldehyde (22.08 g, 120 mmol) and nitromethane (12.5 ml, 14.2 g, 233 mmol) in MeOH (1 l) is cooled to 3° C. in an ice bath; sodium hydroxide solution (32%, 420 ml, 567 g, 135 g of NaOH, 3.36 mol) is then added dropwise, a clear solution being formed after addition of 30 ml (time needed 1 h). The mixture is stirred at 10° C. for 2 h and then added dropwise at 10° C. to initially introduce HCl (20%, 1080 ml, 216 g of HCl, 5.9 mol) (time needed 40 min). The HCl-acidic mixture is stirred until formation of the precipitate is complete (30 min). The nitrostyrene crystallizate is filtered off with suction, washed with ice water until the wash phase gives a neutral reaction and dried over P2O5 in an evacuated desiccator. The yield of crystallizate is 16.03 g after drying.

reactant | 4-methylsulphonylbenzaldehyde | 120 mmol, 22.08 g | CS(=O)(=O)C1=CC=C(C=O)C=C1 | C8H8O3S
reactant | nitromethane | 233 mmol, 12.5 ml, 14.2 g | [N+](=O)([O-])C | CH3NO2
reactant | sodium hydroxide | 3.36 mol, 420 ml, 567 g | [OH-].[Na+]
reactant | HCl | 5.9 mol, 1080 ml, 216 g | Cl | ClH
solvent | MeOH | 1 l | CO | CH4O
product | Methyl [4-(2-nitrovinyl)phenyl]sulphone | CS(=O)(=O)C1=CC=C(C=C1)C=C[N+](=O)[O-] | C9H9NO4S
